US07638521B2
c) 3-Carboxy-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole
0.204 g (4.9 mmol) of lithium hydroxide monohydrate and 8 cm3 of water are added to 0.6 g (1.62 mmol) of 3-methoxycarbonyl-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole dissolved in 8 cm3 of tetrahydrofuran. After stirring at reflux for 15 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 20 cm3 of water (pH=10). The resulting aqueous solution is washed with 30 cm3 of ethyl acetate, adjusted to pH 6 with N hydrochloric acid and extracted with 50 cm3 of ethyl acetate. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is triturated in 20 cm3 of isopropyl ether and filtered off, resulting in 0.3 g of 3-carboxy-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole in the form of a yellow powder. Mass spectrum (EI): m/e 356 (M+•), m/e 311.

reactant | lithium hydroxide monohydrate | 4.9 mmol, 0.204 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole | 1.62 mmol, 0.6 g | COC(=O)C1=CN(C2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)C(F)(F)F | C20H13F3N2O2
solvent | tetrahydrofuran | 8 cm3 | O1CCCC1 | C4H8O
solvent | water | 20 cm3, pH=10 | O | H2O
solvent | water | 8 cm3 | O | H2O
product | 3-Carboxy-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole | C(=O)(O)C1=CN(C2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)C(F)(F)F | C19H11F3N2O2
